US07612064B2
Propargyl m-chlorobenzenesulfonamide
To a stirred solution of propargylamine (0.78 ml, 12.0 mmol) and pyridine (3.0 ml) in CH2Cl2 (30 ml), 4-dimethylaminopyridine (122 mg, 1.0 mmol) and a solution of m-chlorobenzenesulfonyl chloride (2.11 g, 10.0 mmol) in CH2Cl2 are added at 4° C. The reaction mixture is stirred for 30 min at 4° C. and for 12 h at room temperature. The reaction mixture is extracted with CH2Cl2 and aqueous 1 N HCl solution, the organic layer dried over MgSO4, the solvents evaporated and the solid residue suspended in a mixture of hexane/ethyl acetate (1:8), filtered and dried under reduced pressure to yield the title compound as beige solid. 1H-NMR (300 MHz, CDCl3): 7.95-7.9; 7.9-7.75; 7.65-45 (3m, 4H); 4.85 (br.s, 1H); 3.95-3.9 (m, 2H); 2.14 (t, J=2.5 Hz, 1H).

reactant | propargylamine | 12.0 mmol, 0.78 ml | C(C#C)N | C3H5N
reactant | pyridine | 3.0 ml | N1=CC=CC=C1 | C5H5N
reactant | m-chlorobenzenesulfonyl chloride | 10.0 mmol, 2.11 g | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.0 mmol, 122 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Propargyl m-chlorobenzenesulfonamide | C(C#C)C1=C(C=CC=C1Cl)S(=O)(=O)N | C9H8ClNO2S
